US07115597B2
tert-Butyl 6-(methoxymethyl)pyrimidin-4-ylcarbamate (24-4)
To a solution of 4-chloro-6-(methoxymethyl)pyrimidine (768 mg, 4.84 mmole) in dry dioxane (10 mL) was added Cs2CO3 (2.37 g, 7.26 mmole), Xanthphos (84 mg, 0.15 mmole), Pd2(dba)3 (44 mg, 0.05 mmole), and tert-butylcarbamate (681 mg, 5.81 mmole) then the mixture was heated to reflux. After 3 hours, the mixture was cooled to room temperature, diluted with H2O, and extracted with CH2Cl2 (3×). The combined organic layers were dried (MgSO4), filtered, and concentrated. Flash column chromatography (35% EtOAc/hexanes) gave the title compound as a pale yellow solid. 1H-NMR (500 MHz, CDCl3) δ 8.74 (s, 1H), 8.04 (s, 1H), 8.00 (bs, 1H), 4.51 (s, 2H), 3.51 (s, 3H), 1.55 (s, 9H).

reactant | 4-chloro-6-(methoxymethyl)pyrimidine | 4.84 mmole, 768 mg | ClC1=NC=NC(=C1)COC | C6H7ClN2O
reactant | Cs2CO3 | 7.26 mmole, 2.37 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Xanthphos | 0.15 mmole, 84 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | tert-butylcarbamate | 5.81 mmole, 681 mg | C(C)(C)(C)NC([O-])=O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | H2O | O | H2O
catalyst | Pd2(dba)3 | 0.05 mmole, 44 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-Butyl 6-(methoxymethyl)pyrimidin-4-ylcarbamate | COCC1=CC(=NC=N1)NC(OC(C)(C)C)=O | C11H17N3O3
